datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]1[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11])[H:7]>>[C:0](=[C:1]=[C:2]1[C:3]=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11])([H:7])[H:8],395.84824
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:18]([C:17]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[c:20]1[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]1[H:36])[H:9])([H:7])[H:8],44.3504
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([C:14]([H:25])([H:26])[H:27])[c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:21])([H:22])[H:23])([C:13]([C:14]([H:25])([H:26])[H:27])[c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:24])[H:6])([H:4])[H:5],48.7436
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[H:7]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][H:7],14.644
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8]([H:9])([H:10])[H:11],43.446656
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]([C:10]([H:13])([H:14])[H:15])[H:12])[H:11]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:9]([C:8]#[C:7][H:11])([C:10]([H:13])([H:14])[H:15])[H:12],43.7646
[C:0]([C:1](=[C:2]([H:11])[H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1](=[C:2]([H:11])[H:12])[C:3]12[C:4]([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]([H:16])=[C:8]2[H:17],157.376976
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22],9.2048
[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6]>>[C:0]([C:1]([O:2][O:3][H:4])([H:7])[H:8])([H:5])[H:6],143.135
[C:0](=[C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[C:8](=[C:9]([H:17])[H:18])[H:16])[H:11])[H:10]>>[C:0](=[C:1][c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[C:8](=[C:9]([H:17])[H:18])[H:16])([H:10])[H:11],30.472072
[O:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8].[O:16]>>[H:8][O:16].[O:0][C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10],20.92
[S:0]([C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])[H:8].[S:15]([c:16]1[c:17]([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]([H:26])[c:21]1[H:27])[H:22]>>[S:0]([C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])([H:9])[H:22])[H:8].[S:15][c:16]1[c:17]([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]([H:26])[c:21]1[H:27],13.8072
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](#[C:12][C:13]([S:14][H:17])[H:16])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12]#[C:11][H:15])([S:14][H:17])[H:16],15.0624
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24]>>[C:0]([C:1]([C:2]1[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:24],4.64424
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([S:14][H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:17])[H:5].[C:12](=[C:13][S:14][H:18])([H:15])[H:16],87.7803
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([O:9][O:10])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0]([C:1](=[O:2])[H:6])([H:4])[H:5].[H:3][O:10][O:9][C:8]([C:7]([H:11])([H:12])[H:13])([H:14])[H:15],62.190976
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15][O:16][H:17]>>[C:0]([c:1]1[c:2][c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:10][O:15][O:16][H:17],59.5521272
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:15])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[H:16])([H:12])([H:13])[H:14],78.6592
[C:0]([S:1])([H:2])([H:3])[H:4].[C:5]([S:6])([H:7])([H:8])[H:9]>>[C:0]([S:1][H:7])([H:2])([H:3])[H:4].[C:5](=[S:6])([H:8])[H:9],0.0
